US05064649
(a) 2,5-Dihydro-5-hydroxy-4-methoxy-3-methyl-2-oxofuran
2-Methoxy-3-methylmaleic anhydride (9 g), (M. M. Kayser et al, Can.J.Chem., 1986, 64, 104) in dry THF (50 mls) was added, dropwise to a suspension of sodium borohydride (1.5 g) in THF (200 mls) at 0°-5° C., over ca 30 mins. The reaction mixture was allowed to warm to room temperature for a further 30 mins. T.l.c. analysis showed no remaining starting material. The solution was carefully neutralized with 5M aqueous hydrochloric acid and then the THF removed in vacuo. The aqueous solution was extracted with ethyl acetate washed with brine and dried. After removal of solvent the crude material was purified by `flash` chromatography on silica gel eluting with 50% ethyl acetate/hexane. The title compound was obtained as a colourless crystalline solid, (6.683 g, 73%), m.p. 79° C., benzene. νmax (CH2Cl2) 3540(w), 3300 (br), 1755, 1670, 1455, 1380 and 1325cm- ; δH (CDCl 3) 1.78 (3H, s), 4.06 (3H, s), 5.96 (1H, br.s, sharpens on D2O shake) and 6.23 (1H, br.s, exch).

reactant | 2-Methoxy-3-methylmaleic anhydride | 9 g | CO/C=1/C(=O)OC(\C1\C)=O | C6H6O4
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | THF | 50 mls | C1CCOC1 | C4H8O
solvent | THF | 200 mls | C1CCOC1 | C4H8O
product | 2,5-Dihydro-5-hydroxy-4-methoxy-3-methyl-2-oxofuran | OC1C(=C(C(O1)=O)C)OC | C6H8O4
